US06433176B1
m-Aminophenol (1.1 g, 10 mmol), 1-bromo-3-chloropropane (4.8 g, 3 ml, 30 mmol) and ethanol (10 ml) were placed in a 100 ml two-necked round-bottomed flask. The mixture was heated and refluxed for 11 hours, during which an NaHCO3 aqueous solution (2.0 g, 20 ml, 23 mmol) was added. The mixture was further heated and refluxed for 37 hours. The solvent was removed by distillation under reduced pressure. The resulting crude product was extracted with hexane by a solid-liquid continuous extraction to give 8-hydroxyjulolidine (661 mg) in 35% yield.

reactant | m-Aminophenol | 10 mmol, 1.1 g | NC=1C=C(C=CC1)O | C6H7NO
reactant | 1-bromo-3-chloropropane | 30 mmol, 3 ml, 4.8 g | BrCCCCl | C3H6BrCl
reactant | NaHCO3 | 23 mmol, 20 ml, 2.0 g | C(=O)(O)[O-].[Na+]
reactant | ethanol | 10 ml | C(C)O | C2H6O
product | 8-hydroxyjulolidine | 661 mg, 35% yield | C1CC2=C3C(=C(C=C2)O)CCCN3C1 | C12H15NO
